US04000193
a. 5-(N,N-Dibenzylglycyl)-2-(pentyloxy)benzamide
3(a) 5-(N,N-dibenzylglycyl)-2-hexyloxybenzamide, m.p. 92°-94°, 53% (hexyl iodide).

reactant | 5-(N,N-dibenzylglycyl)-2-hexyloxybenzamide | C(C1=CC=CC=C1)N(CC(=O)C=1C=CC(=C(C(=O)N)C1)OCCCCCC)CC1=CC=CC=C1 | C29H34N2O3
reactant | hexyl iodide | C(CCCCC)I | C6H13I
product | 5-(N,N-Dibenzylglycyl)-2-(pentyloxy)benzamide | C(C1=CC=CC=C1)N(CC(=O)C=1C=CC(=C(C(=O)N)C1)OCCCCC)CC1=CC=CC=C1 | C28H32N2O3
